US04734419
A solution of ethyl 2-[7-bromo-3-(4-bromo-2-fluorobenzyl)-1,2,3,4-tetrahydro-2,4-dioxoquinazolin-1-yl]acetate (3.0 g) and 1N aqueous sodium hydroxide (5.83 ml) in methanol (69.6 ml) was refluxed for 1 hour with stirring. After cooling, the solvent was evaporated to give a residue, which was acidified with 1N aqueous hydrochloric acid and extracted with ethyl acetate. The extract was washed with brine and dried. Removal of the solvent gave a residue, which was recrystallized from a mixture of ethyl acetate and n-hexane to afford 2-[7-bromo-3-(4-bromo-2-fluorobenzyl)-1,2,3,4-tetrahydro-2,4-dioxoquinazolin-1-yl]acetic acid (2.36 g).

reactant | ethyl 2-[7-bromo-3-(4-bromo-2-fluorobenzyl)-1,2,3,4-tetrahydro-2,4-dioxoquinazolin-1-yl]acetate | 3.0 g | BrC1=CC=C2C(N(C(N(C2=C1)CC(=O)OCC)=O)CC1=C(C=C(C=C1)Br)F)=O | C19H15Br2FN2O4
reactant | sodium hydroxide | 1N, 5.83 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 69.6 ml | CO | CH4O
product | 2-[7-bromo-3-(4-bromo-2-fluorobenzyl)-1,2,3,4-tetrahydro-2,4-dioxoquinazolin-1-yl]acetic acid | 2.36 g | BrC1=CC=C2C(N(C(N(C2=C1)CC(=O)O)=O)CC1=C(C=C(C=C1)Br)F)=O | C17H11Br2FN2O4
